US06620791B1
Trehalose dihydrate was dissolved in demineralised water to give a 20% trehalose solution. The solution was frozen to −40° C., then freeze dried in an Edwards freeze dryer. A powdered material typical of freeze dried powder was obtained. The material was confirmed to be completely amorphous by DSC and X-ray powder diffraction.

reactant | Trehalose dihydrate | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O)O)O)O)O.O.O
solvent | water | O | H2O
product | trehalose | 20% | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O)O)O)O)O | C12H22O11
